US05869519
(3S)-3-[(1-Methylindole-2-Carbonyl)Valinyl]Amino-4-Oxobutanoic acid, t-Butyl Ester Semicarbazone
1-Methylindole-2-carboxylic acid (88 mg, 0.5 mmol) and (3S)-3-(Valinyl)amino-4-oxobutanoic acid, t-butyl ester semicarbazone (163 mg, 0.5 mmol) were dissolved in DMF (1 mL) and methylene chloride (2 mL) then both DMAP (61 mg, 0.50 mmol) and EDAC (134 mg, 0.7 mmol) were added to the solution under a nitrogen atmosphere at 0° C. Stirring was continued for 1 hour at 0° C. and an additional 4 hours at room temperature. The reaction mixture was partitioned between ethyl acetate and 5% KHSO4 solution. The ethyl acetate solution was washed successively with 5% KHSO4 solution, saturated sodium bicarbonate solution and brine solutions, dried over sodium sulfate, and concentrated to give a yellow foam. Trituration of the foam with ether afforded the title product as a slightly yellow powder (203 mg, 86%). TLC: (methanol/methylene chloride:5/95, silica gel): Rf =0.17.

reactant | 1-Methylindole-2-carboxylic acid | 0.5 mmol, 88 mg | CN1C(=CC2=CC=CC=C12)C(=O)O | C10H9NO2
reactant | (3S)-3-(Valinyl)amino-4-oxobutanoic acid, t-butyl ester semicarbazone | 0.5 mmol, 163 mg | N[C@@H](C(C)C)C(=O)N[C@@H](CC(OC(C)(C)C)=NNC(=O)N)C=O | C14H27N5O4
reactant | methylene chloride | 2 mL | C(Cl)Cl | CH2Cl2
reactant | EDAC | 0.7 mmol, 134 mg | CCN=C=NCCCN(C)C | C8H17N3
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
catalyst | DMAP | 0.50 mmol, 61 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | ether | CCOCC | C4H10O
product | (3S)-3-[(1-Methylindole-2-Carbonyl)Valinyl]Amino-4-Oxobutanoic acid, t-Butyl Ester Semicarbazone | CN1C(=CC2=CC=CC=C12)C(=O)N[C@@H](C(C)C)C(=O)N[C@@H](CC(OC(C)(C)C)=NNC(=O)N)C=O | C24H34N6O5
